US04424231
A mixture of 2,4-dihydroxy-3-propylsalicylaldehyde (15.5 g), benzyl chloride (12.0 g), potassium carbonate (13 g) and potassium iodide (0.5 g) in dry acetone (350 ml) was heated under reflux for 24 hours. The solid was removed by filtration and the solution evaporated to dryness. The oil obtained was distilled and the fraction bp0.5 mm 220°-224° was collected to yield 15.0 g of 4-benzyloxy-3-propylsalicylaldehyde.

reactant | 2,4-dihydroxy-3-propylsalicylaldehyde | 15.5 g | OC1(C(C=O)C=CC(=C1CCC)O)O | C10H14O4
reactant | benzyl chloride | 12.0 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 350 ml | CC(=O)C | C3H6O
catalyst | potassium iodide | 0.5 g | [I-].[K+]
product | 4-benzyloxy-3-propylsalicylaldehyde | 15.0 g | C(C1=CC=CC=C1)OC=1C(=C(C(C=O)=CC1)O)CCC | C17H18O3
